US09056873B2
Preparation 35: tert-Butyl ((3R,4R)-4-((4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-yl)amino)tetrahydro-2H-pyran-3-yl)carbamate
To a sealed tube was added 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (430 mg, 1.12 mol), tert-butyl ((3R,4R)-4-aminotetrahydro-2H-pyran-3-yl)carbamate (7.5 g, 34.2 mol), and DIPEA (0.97 mL, 5.58 mmol). The mixture was heated in the sealed tube at 95° C. for 72 h. The mixture was purified via preparative HPLC to give the title compound as a yellow solid (100 mg, 16%). [M+H] calc'd for C27H34ClFN4O6, 565. found, 565.

reactant | 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 1.12 mol, 430 mg | ClC1=NC(=C(C2=C1C(N(C2C)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C17H15Cl2FN2O3
reactant | tert-butyl ((3R,4R)-4-aminotetrahydro-2H-pyran-3-yl)carbamate | 34.2 mol, 7.5 g | N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C10H20N2O3
reactant | DIPEA | 5.58 mmol, 0.97 mL | CCN(C(C)C)C(C)C | C8H19N
product | tert-Butyl ((3R,4R)-4-((4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-yl)amino)tetrahydro-2H-pyran-3-yl)carbamate | 100 mg, 16% | ClC1=NC(=C(C2=C1C(N(C2C)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@H]2[C@H](COCC2)NC(OC(C)(C)C)=O | C27H34ClFN4O6
